US07141596B2
Step 4. Methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-(4-bromo-3-methylphenyl)propanoate
A solution of methyl-2-[(benzyloxy)carbonyl]amino-3-(4-bromo-3-methylphenyl)acrylate (10.4 g, 0.0257 mol) in ethanol (200 mL) was degassed with nitrogen. (R,R)-(−)-1,2-bis[(o-methoxyphenyl)(phenyl)phosphino]ethane(1,5-cyclooctadiene) rhodium (I) tetrafluroborate (194 mg, 257 μmol) was added to the reaction solution and nitrogen was bubble through. After five cycles of vacuum/H2, the reaction was heated at a pressure of 50 psi of hydrogen at room temperature. After 24 h, the solvent was removed under reduced pressure. The crude residue was purified by flash column chromatography to yield the desired product (8.7 g, 83%). 1H NMR (400 MHz, CD3OD): δ 7.40 (d, 1H), 7.3 (m, 5H), 7.13 (s, 1H), 6.91 (m, 1H), 5.00 (m, 2H), 4.42 (m, 1H), 3.70 (s, 3H), 3.09 (m, 1H), 2.84 (m, 1H), 2.32 (s, 3H); MF=C19H20BrNO4; LCMS found for C19H20BrNO4Na (M+Na)+: m/z=428, 430.

reactant | methyl-2-[(benzyloxy)carbonyl]amino-3-(4-bromo-3-methylphenyl)acrylate | 0.0257 mol, 10.4 g | COC(C(=CC1=CC(=C(C=C1)Br)C)NC(=O)OCC1=CC=CC=C1)=O | C19H18BrNO4
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | (R,R)-(−)-1,2-bis[(o-methoxyphenyl)(phenyl)phosphino]ethane(1,5-cyclooctadiene) rhodium (I) tetrafluroborate | 257 μmol, 194 mg | [B-](F)(F)(F)F.COC1=CC=CC=C1[P@@](C2=CC=CC=C2)CC[P@@](C3=CC=CC=C3OC)C4=CC=CC=C4.C1/C=C\CC/C=C\C1.[Rh]
product | Methyl (2S)-2-[(benzyloxy)carbonyl]amino-3-(4-bromo-3-methylphenyl)propanoate | 8.7 g, 83% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC(=C(C=C1)Br)C | C19H20BrNO4
